US05852017
f) Preparation of 7-chloro-6-(1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione
0.6 g (2.9 mmol) of N-(2-chloro-4,5-diaminophenyl)pyrrole and 32 g (221 mmol) of diethyl oxalate were refluxed for 3 hours. The reaction mixture was cooled and then the crude product was filtered off and washed with petroleum ether.

reactant | N-(2-chloro-4,5-diaminophenyl)pyrrole | 2.9 mmol, 0.6 g | ClC1=C(C=C(C(=C1)N)N)N1C=CC=C1 | C10H10ClN3
reactant | diethyl oxalate | 221 mmol, 32 g | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 7-chloro-6-(1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione | ClC1=C(C=C2NC(C(NC2=C1)=O)=O)N1C=CC=C1 | C12H8ClN3O2
